US07829572B2
A solution of 4-amino-N-phenethyl-2-(trifluoromethyl)nicotinamide (25.5 mg, 0.082 mmol), 5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazole-4-carbaldehyde (17 mg, 0.082 mmol) and TsOH (1.4 mg, 0.008 mmol) in toluene was heated at reflux overnight. The reaction was then filtered and to the crude mixture was added manganese oxide. The reaction was heated at 110° C. for 4 h. The reaction mixture was filtered, concentrated and purified with silica gel chromatography providing a solid, 2-(5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazol-4-yl)-3-phenethyl-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one (7 mg). 1H NMR (400 MHz, CDCl3) δ 9.02 (s, 1H), 8.76 (d, 1H), 7.69 (m, 1H), 7.51 (m, 1H), 7.48 (d, 1H), 7.32 (m, 5H), 4.20 (m, 2H), 3.32 (m, 2H), 2.07 (s, 6H). MS m/z 496.5 (M+H)+.

reactant | 4-amino-N-phenethyl-2-(trifluoromethyl)nicotinamide | 0.082 mmol, 25.5 mg | NC1=CC=NC(=C1C(=O)NCCC1=CC=CC=C1)C(F)(F)F | C15H14F3N3O
reactant | 5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazole-4-carbaldehyde | 0.082 mmol, 17 mg | CC=1N(C(=CC1)C)C1=C(N=CS1)C=O | C10H10N2OS
reactant | TsOH | 0.008 mmol, 1.4 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(5-(2,5-dimethyl-1H-pyrrol-1-yl)thiazol-4-yl)-3-phenethyl-5-(trifluoromethyl)pyrido[4,3-d]pyrimidin-4(3H)-one | 7 mg | CC=1N(C(=CC1)C)C1=C(N=CS1)C=1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)CCC2=CC=CC=C2 | C25H20F3N5OS
